US06492383B1
7-Chloro-2-(1-methyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridine (1.0 g, 4.0 mmol) and 2-methyl-5-aminoindole (732 mg, 5.0 mmol) were dissolved in 7 mL of t-butyl alcohol and 7 mL of dichloroethane and the solution was heated to 85° C. After allowing the reaction to go dry overnight the reaction mixture was cooled and absorbed onto silica gel. Chromatography of the residue with 20% methanol:methylene chloride afforded 991 mg (69%) of [2-(1-methyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine. 1H NMR (400 MHz, CD3OD) δ8.26 (d, 1H), 7.95 (s, 1H), 7.62 (s, 1H), 7.48 (m, 2H), 7.39 (d, 1H), 7.04 (m, 2H), 6.20 (s, 1H), 3.33 (s, 3H), 2.43 (s, 3H). LC-MS: 360 (MH+); HPLC RT: 4.15 min.

reactant | 7-Chloro-2-(1-methyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridine | 4.0 mmol, 1.0 g | ClC1=C2C(=NC=C1)C=C(S2)C=2N(C=CN2)C | C11H8ClN3S
reactant | 2-methyl-5-aminoindole | 5.0 mmol, 732 mg | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
solvent | t-butyl alcohol | 7 mL | C(C)(C)(C)O | C4H10O
product | [2-(1-methyl-1H-imidazol-2-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine | 991 mg, 69% | CN1C(=NC=C1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C20H17N5S
